US09212163B2
Preparation of (E)-2-Bromo-N-(1-cyanocyclopropyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide (F7)
To a stirred solution of (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid (100 mg, 0.205 mmol) in DCE (10.0 mL) at RT was added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (EDC hydrochloride) (58.9 mg, 0.307 mmol), 1-amino-1-cyclopropanecarbonitrile hydrochloride (24.3 mg, 0.296 mmol), DMAP (catalytic) and TEA (22.79 mg, 0.225 mmol). The resulting reaction mixture was stirred at RT for 18 h. To the reaction mixture was added EtOAc (50 mL) and 0.1N HCl (10 mL) and the layers were separated. The aqueous layer was extracted with EtOAc (1×). The combined organic layers were washed with aq NaHCO3 (1×), dried (MgSO4), filtered and concentrated under reduce pressure to give an oil. Purification by flash chromatography (SiO2, 230-400 mesh; eluting with 35% EtOAc in hexanes) afforded the title compound as a white solid (13 mg, 11.5%). Characterization data for this molecule is listed in Table 2.

reactant | (E)-2-bromo-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzoic acid | 0.205 mmol, 100 mg | BrC1=C(C(=O)O)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C17H9BrCl3F3O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.307 mmol, 58.9 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-amino-1-cyclopropanecarbonitrile hydrochloride | 0.296 mmol, 24.3 mg | Cl.NC1(CC1)C#N
reactant | HCl | 0.1N, 10 mL | Cl | ClH
solvent | DCE | 10.0 mL | ClCCCl | C2H4Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | (E)-2-Bromo-N-(1-cyanocyclopropyl)-4-(4,4,4-trifluoro-3-(3,4,5-trichlorophenyl)but-1-en-1-yl)benzamide | 13 mg, 11.5% | BrC1=C(C(=O)NC2(CC2)C#N)C=CC(=C1)\C=C\C(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H13BrCl3F3N2O
